US03947593
A solution of 15.0 g (0.037 mole) of 3,9-bis(4-chlorobutyryl)fluoranthene, 100 ml of diethylamine, 2.0 g of potassium iodide and 100 ml of tetrahydrofuran (THF) is heated at reflux with stirring for 3 days and filtered. The filtrate is poured onto ice water and the oil which separates is decanted and dissolved in ether. The ether solution is washed with a water-saturated sodium chloride solution, dried over magnesium sulfate and filtered. The filtrate is acidified with ethereal HCl, and the resulting precipitate is recrystallized twice from methanol-butanone to yield 3,9-bis(4-diethylaminobutyryl)fluoranthene dihydrochloride. M.P. 236°-239°C.

reactant | 3,9-bis(4-chlorobutyryl)fluoranthene | 0.037 mole, 15.0 g | ClCCCC(=O)C=1C=CC=2C3=CC(=CC=C3C3=CC=CC1C23)C(CCCCl)=O | C24H20Cl2O2
reactant | diethylamine | 100 ml | C(C)NCC | C4H11N
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3,9-bis(4-diethylaminobutyryl)fluoranthene dihydrochloride | Cl.Cl.C(C)N(CCCC(=O)C=1C=CC=2C3=CC(=CC=C3C3=CC=CC1C23)C(CCCN(CC)CC)=O)CC | InChI=1S/C32H40N2O2.2ClH/c1-5-33(6-2)20-10-14-30(35)23-16-17-24-26-12-9-13-27-25(18-19-28(32(26)27)29(24)22-23)31(36)15-11-21-34(7-3)8-4;;/h9,12-13,16-19,22H,5-8,10-11,14-15,20-21H2,1-4H3;2*1H
